USRE039679E1
5-Bromo-2-[(3-chloropropyl)sulfanyl]aniline (0.938 g, 3.3 mmol) was dissolved in TFA (4 mL). The reaction flask was cooled to 0° C. and HCl (15 mL) was added. To the resulting suspension, an aqueous solution of NaNO2 (0.25 g, 3.7 mmol, 3 mL H2O) was slowly added. The flask was warmed to rt and stirred for 2 hrs. The flask was re-cooled to 0° C. and was transferred via cannula to an aqueous solution of SnCl2.2H2O (1.49 g, 6.6 mmol, 3 mL of H2O). The solution was stirred for 3 hours. The precipitate was collected by filtration and the residue was air-dried overnight. 1-{5-bromo-2-[(3-chloropropyl)sulfanyl]phenyl}hydrazine hydrochloride was isolated (0.800 g, 73%) was a light-brown powder. 1H NMR (CD3OD, 300 Mhz) δ7.42 (d, 1H, 8.0 Hz), 7.14-7.21 (m, 2H), 3.66 (t, 2H, 6.2 Hz), 2.97 (t, 2H, 6.9 Hz), 1.90-1.99 (m, 2H) ppm. MS (CI, NH3): 297 (base, M+H).

reactant | 5-Bromo-2-[(3-chloropropyl)sulfanyl]aniline | 3.3 mmol, 0.938 g | BrC=1C=CC(=C(N)C1)SCCCCl | C9H11BrClNS
reactant | HCl | 15 mL | Cl | ClH
reactant | NaNO2 | 3.7 mmol, 3 mL, 0.25 g | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 6.6 mmol, 3 mL, 1.49 g | O.O.Cl[Sn]Cl
solvent | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-{5-bromo-2-[(3-chloropropyl)sulfanyl]phenyl}hydrazine hydrochloride | Cl.BrC=1C=CC(=C(C1)NN)SCCCCl | InChI=1S/C9H12BrClN2S.ClH/c10-7-2-3-9(8(6-7)13-12)14-5-1-4-11;/h2-3,6,13H,1,4-5,12H2;1H
